US06297260B1
29a. 1-[4-(2-Hydroxyethyl)piperazinyl]-3-methyl-3-(phenylmethylthio)butan-1-one
A mixture of 3-methyl-3-(phenylmethylthio)butanoic acid (1 g, 4.6 mmol) and hexachloroacetone were dissolved in CH2Cl2 (20 mL) and cooled to −78° C. Triphenyl phosphine was added and the mixture was stirred for 30 minutes. Hydroxyethyl piperazine (550 μL, 4.5 mmol) was added in CH2Cl2 (10 mL) dropwise. Triethylamine (630 μL, 4.5 mmol) was added in CH2Cl2 (10 mL) dropwise. The cold bath was removed and the solution was stirred for 24 hours. The solvent was evaporated. The crude mixture was poured into 1N HCl (100 mL) and washed with Et2O (2×50 mL). The aqueous layer was made basic with 10% K2CO3 in a brine solution. The product was extracted with EtOAc (3×100 mL), dried over Na2SO4, and concentrated. This gave the title compound which was used immediately in the next reaction. 1H NMR (300 MHz, CDCl3) δ 7.18-7.37 (mult, 5H), 3.8 (s, 2H), 3.6 (t, J=5 Hz, 4H), 3.4 (t, J=5 Hz, 2H), 2.45-2.65 (mult, 8H), 1.5 (s, 6H).

reactant | 3-methyl-3-(phenylmethylthio)butanoic acid | 4.6 mmol, 1 g | CC(CC(=O)O)(C)SCC1=CC=CC=C1 | C12H16O2S
reactant | hexachloroacetone | ClC(C(=O)C(Cl)(Cl)Cl)(Cl)Cl | C3Cl6O
reactant | Triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Hydroxyethyl piperazine | 4.5 mmol, 550 μL | OCCN1CCNCC1 | C6H14N2O
reactant | Triethylamine | 4.5 mmol, 630 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(2-Hydroxyethyl)piperazinyl]-3-methyl-3-(phenylmethylthio)butan-1-one | OCCN1CCN(CC1)C(CC(C)(SCC1=CC=CC=C1)C)=O | C18H28N2O2S
